US07943652B2
Step a: Preparation of (2-ethyl-pyrazolo[1,5-a]pyridin-3-yl)-methanol
A solution of 2-ethyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid ethyl ester (15 g, 68.7 mmol) in tetrahydrofuran (300 mL) was cooled in an ice bath and lithium aluminum hydride (2.6 g, 68.7 mmol) was added. The reaction mixture was stirred at room temperature for 16 h. Water was added until bubbling stopped. Silica gel was added and the solvent was evaporated in vacuo. The resulting residue was purified via silica chromatography (20-100% ethyl acetate/heptane) to yield the title compound as a yellow/brown oil (9.67 g, 80% yield).

reactant | 2-ethyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid ethyl ester | 68.7 mmol, 15 g | C(C)OC(=O)C=1C(=NN2C1C=CC=C2)CC | C12H14N2O2
reactant | lithium aluminum hydride | 68.7 mmol, 2.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | (2-ethyl-pyrazolo[1,5-a]pyridin-3-yl)-methanol | 9.67 g, 80% yield | C(C)C1=NN2C(C=CC=C2)=C1CO | C10H12N2O
